US07173031B2
B) 4-(1H-Pyrrolo[2,3-b]pyridin-4-yloxy)-3-fluorobenzenamine
To a suspension of 4-(2-fluoro-4-nitrophenoxy)-1H-pyrrolo[2,3-b]pyridine (300 mg, 1.1 mmol) in tetrahydrofuran (5 mL) and methanol (10 mL), were added zinc powder (350 mg, 5.5 mmol) and ammonium chloride (294 mg, 5.5 mmol). The mixture was stirred at rt overnight. The mixture was filtered through a pad of Celite®, rinsed with methanol. The filtrate was concentrated. The product was purified by flash column chromatography (silica gel, 1–5% MeOH in CH2Cl2) to afford the desired product (205 mg, 77%) as an off-white solid. MS(ESI+) m/z 244 (M+H)+.

reactant | 4-(2-fluoro-4-nitrophenoxy)-1H-pyrrolo[2,3-b]pyridine | 1.1 mmol, 300 mg | FC1=C(OC2=C3C(=NC=C2)NC=C3)C=CC(=C1)[N+](=O)[O-] | C13H8FN3O3
reactant | ammonium chloride | 5.5 mmol, 294 mg | [Cl-].[NH4+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | methanol | 10 mL | CO | CH4O
catalyst | zinc | 5.5 mmol, 350 mg | [Zn] | Zn
product | 4-(1H-Pyrrolo[2,3-b]pyridin-4-yloxy)-3-fluorobenzenamine | 205 mg, 77% | N1C=CC=2C1=NC=CC2OC2=C(C=C(C=C2)N)F | C13H10FN3O
